US03970683
A solution of 10.5 parts of the tetrahydropyranyl ether prepared above is dissolved in 16.5 parts of n-hexane and treated dropwise at -40° with 30 parts by volume of a diisobutyl aluminum hydride-hexane solution containing 0.19 part of diisobutyl aluminum hydride per milliliter of solution. The reaction mixture is allowed to warm to room temperature and is allowed to stand for 24 hours. Then the solution is warmed to 50° for 2 hours and stripped of solvent. The residue which remains is dissolved in 17.7 parts of tetrahydrofuran and treated at a temperature of -50° with a solution of 11.4 parts of iodine dissolved in 17.7 parts of tetrahydrofuran. After the addition is complete, the solution is allowed to warm to room temperature and is poured into a mixture consisting of ether and aqueous 0.5 N sulfuric acid. The ethereal extract is washed successively with water, sodium sulfite solution, sodium bicarbonate solution and water. Then it is dried over anhydrous sodium sulfate and the solvent is removed under reduced pressure. The material remaining is chromatographed on silica gel to afford trans-3(RS)-(tetrahydropyran-2-yl)oxy-1-iodo-1-octene. That material is characterized by a nuclear magnetic resonance spectrum with a doublet at δ5.95 (J = 14.5 cycles per second) and a doublet of triplets at δ6.5.

reactant | tetrahydropyranyl ether | O1C(CCCC1)OC1OCCCC1 | C10H18O3
reactant | diisobutyl aluminum hydride hexane | [H-].C(C(C)C)[Al+]CC(C)C.CCCCCC
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | iodine | II | I2
reactant | sulfuric acid | 0.5 N | S(O)(O)(=O)=O | H2O4S
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | trans-3(RS)-(tetrahydropyran-2-yl)oxy-1-iodo-1-octene | O1C(CCCC1)OC(/C=C/I)CCCCC | C13H23IO2
